US07186734B2
To a solution of (3-Butyl-5-chloro-2-o-tolyl-3H-imidazol-4-ylmethyl)-(1H-indol-5-ylmethyl)-(3-methyl-butyl)-amine (150 mg, 0.31 mmol) in 5 ml of anhydrous acetonitrile cooled to 0° C. is added NCS (44 mg, 0.33 mmol, 1.05 eq.), the resulting mixture is stirred at 40° C. overnight. The solvent is evaporated; the residue is purified through flash chromatography to give 112 mg of (3-butyl-5-chloro-2-o-tolyl-3H-imidazol-4-ylmethyl)-(3-chloro-1H-indol-5-ylmethyl)-(3-methyl-butyl)-amine as a white solid. 1H NMR (400 MHz, CDCl3) δ 9.39 (1H, s), 7.52 (1H, S), 7.11˜7.36 (6H, m), 6.98 (1H, d, J=2.4 Hz), 3.67 (2H, m), 3.65 (2H, s), 3.54 (2H, s), 2.52 (2H, t, J=7.2 Hz), 2.11 (3H, s), 1.62 (1H, m), 1.45 (2H, q, J=6.9 Hz), 1.10 (2H, m), 0.84 (6H, d, J=6.6 Hz), 0.73 (2H, m), 0.47 (3H, t, J=6.9 Hz); MS (+VE) m/z 511 (M+1).

reactant | (3-Butyl-5-chloro-2-o-tolyl-3H-imidazol-4-ylmethyl)-(1H-indol-5-ylmethyl)-(3-methyl-butyl)-amine | 0.31 mmol, 150 mg | C(CCC)N1C(=NC(=C1CN(CCC(C)C)CC=1C=C2C=CNC2=CC1)Cl)C1=C(C=CC=C1)C | C29H37ClN4
reactant | NCS | 0.33 mmol, 44 mg, 1.05 eq. | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | (3-butyl-5-chloro-2-o-tolyl-3H-imidazol-4-ylmethyl)-(3-chloro-1H-indol-5-ylmethyl)-(3-methyl-butyl)-amine | 112 mg | C(CCC)N1C(=NC(=C1CN(CCC(C)C)CC=1C=C2C(=CNC2=CC1)Cl)Cl)C1=C(C=CC=C1)C | C29H36Cl2N4
